US06320051B1
d. 2-{[(1R,2S)-2-(3,4-Dichlorobenzylamino)cyclopentylmethyl]amino}-1H-quinolin-4-one
Title compound was prepared by the procedure described in Example 61d, using sodium acetate (0.020 g, 0.242 mmol), sodium cyanoborohydride (0.012 g, 0.194 mmol), 3,4-dichlorobenzaldehyde (0.017 g, 0.0969 mmol), and 2-[((1R,2S)-2-aminocyclopentylmethyl)amino]-1H-quinolin-4-one dihydrochloride (0.032 g, 0.0969 mmol). δH (CD3OD) 1.25-2.05 (7H, m), 2.73-2.81 (1H, m), 3.10-3.29 (2H, m), 3.61-3.80 (2H, m), 5.56 (1H, s), 7.13-8.00 (7H, m,). MS (AP+) 416 (M+).

reactant | sodium acetate | 0.242 mmol, 0.020 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.194 mmol, 0.012 g | C(#N)[BH3-].[Na+]
reactant | 3,4-dichlorobenzaldehyde | 0.0969 mmol, 0.017 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2-[((1R,2S)-2-aminocyclopentylmethyl)amino]-1H-quinolin-4-one dihydrochloride | 0.0969 mmol, 0.032 g | Cl.Cl.N[C@@H]1[C@H](CCC1)CNC=1NC2=CC=CC=C2C(C1)=O
product | 2-{[(1R,2S)-2-(3,4-Dichlorobenzylamino)cyclopentylmethyl]amino}-1H-quinolin-4-one | ClC=1C=C(CN[C@@H]2[C@H](CCC2)CNC=2NC3=CC=CC=C3C(C2)=O)C=CC1Cl | C22H23Cl2N3O
